* RSpice Standard Op-Amp Library
* Compatible with LTspice-style subcircuit definitions
*
* Available Op-Amp Models:
*   OPAMP_IDEAL    - Ideal op-amp (1M gain, infinite bandwidth)
*   OPAMP_1STAGE   - Single-stage with GBW limit
*   OPAMP_UA741    - UA741-style 3-stage (classic)
*   OPAMP_LM358    - LM358-style (rail-to-rail input)
*   OPAMP_TL072    - TL072-style JFET input
*

*=====================================================================
* IDEAL OP-AMP
* Very high gain, no bandwidth limiting, rail-to-rail output
*
* Pins: 1=Non-inverting, 2=Inverting, 3=Output
*=====================================================================
.SUBCKT OPAMP_IDEAL INP INN OUT
* Single VCVS with 1M gain
E1 OUT 0 INP INN 1e6
.ENDS OPAMP_IDEAL

*=====================================================================
* SINGLE-STAGE OP-AMP WITH GBW
* First-order model with gain-bandwidth product
*
* Parameters:
*   AVOL  = DC open-loop gain (default 1e5)
*   GBW   = Gain-bandwidth product in Hz (default 1e6)
*   VSAT  = Output saturation voltage (default 13V)
*
* Pins: 1=INP, 2=INN, 3=VCC, 4=VEE, 5=OUT
*=====================================================================
.SUBCKT OPAMP_1STAGE INP INN VCC VEE OUT PARAMS: AVOL=1e5 GBW=1e6 VSAT=13
* Internal nodes
* n1 = differential input stage output
* n2 = compensation node

* Input stage with differential gain
G1 0 N1 INP INN 1

* Dominant pole compensation
* fp = GBW/AVOL = single pole frequency
* Cp = 1/(2*pi*fp*Rp) where Rp = AVOL
R1 N1 0 {AVOL}
C1 N1 0 {1/(6.2832*GBW)}

* Output buffer with limiting
E1 N2 0 N1 0 1
R2 N2 OUT 100
D1 OUT VCC DLIM
D2 VEE OUT DLIM
.MODEL DLIM D(IS=1e-14 BV=0.7)
.ENDS OPAMP_1STAGE

*=====================================================================
* UA741-STYLE OP-AMP
* Classic 3-stage bipolar op-amp model
*
* Parameters:
*   AVOL  = DC open-loop gain (default 2e5)
*   GBW   = Gain-bandwidth product (default 1e6)
*   SR    = Slew rate in V/us (default 0.5)
*   VOS   = Input offset voltage (default 1mV)
*   IB    = Input bias current (default 80nA)
*
* Pins: 1=INP, 2=INN, 3=VCC, 4=VEE, 5=OUT
*=====================================================================
.SUBCKT OPAMP_UA741 INP INN VCC VEE OUT PARAMS: AVOL=2e5 GBW=1e6 SR=0.5 VOS=1e-3 IB=80e-9
* Input bias currents
I1 INP 0 {IB}
I2 INN 0 {IB}

* Input offset voltage
V1 INP INPM {VOS}

* Differential input stage
G1 0 N1 INPM INN 100e-6

* First stage (voltage gain)
R1 N1 0 1e6
C1 N1 0 {159e-6/GBW}

* Slew rate limiting
G2 0 N2 N1 0 1e-3
C2 N2 0 {1e-3/SR}
R2 N2 0 1e3

* Output stage
E1 N3 0 N2 0 1
R3 N3 OUT 50

* Output limiting
D1 OUT VCC DLIM
D2 VEE OUT DLIM
.MODEL DLIM D(IS=1e-14 BV=1.5)
.ENDS OPAMP_UA741

*=====================================================================
* LM358-STYLE OP-AMP
* Dual op-amp style with wide input range
*
* Parameters:
*   AVOL  = DC gain (default 1e5)
*   GBW   = Gain-bandwidth (default 1e6)
*   SR    = Slew rate V/us (default 0.4)
*
* Pins: 1=INP, 2=INN, 3=VCC, 4=VEE, 5=OUT
*=====================================================================
.SUBCKT OPAMP_LM358 INP INN VCC VEE OUT PARAMS: AVOL=1e5 GBW=1e6 SR=0.4
* Input differential pair
G1 0 N1 INP INN 100e-6

* Gain stage with compensation
R1 N1 0 {AVOL/100e-6}
C1 N1 0 {100e-6/(6.2832*GBW)}

* Slew limiting stage
G2 0 N2 N1 0 1e-3
R2 N2 0 1e3
C2 N2 0 {1e-3/SR}

* Output buffer
E1 N3 0 N2 0 1
R3 N3 OUT 100

* Output clamp (single supply capable)
D1 OUT VCC DOUT
D2 VEE OUT DOUT
.MODEL DOUT D(IS=1e-14 BV=1.2)
.ENDS OPAMP_LM358

*=====================================================================
* TL072-STYLE JFET OP-AMP
* Low noise, JFET input op-amp
*
* Parameters:
*   AVOL  = DC gain (default 2e5)
*   GBW   = Gain-bandwidth (default 3e6)
*   SR    = Slew rate V/us (default 13)
*   VOS   = Input offset (default 3mV)
*   IB    = Input bias current (default 30pA)
*
* Pins: 1=INP, 2=INN, 3=VCC, 4=VEE, 5=OUT
*=====================================================================
.SUBCKT OPAMP_TL072 INP INN VCC VEE OUT PARAMS: AVOL=2e5 GBW=3e6 SR=13 VOS=3e-3 IB=30e-12
* Very low input bias (JFET input)
I1 INP 0 {IB}
I2 INN 0 {IB}

* Input offset
V1 INP INPM {VOS}

* Input differential stage (JFET - high impedance)
G1 0 N1 INPM INN 200e-6

* Compensation
R1 N1 0 {AVOL/200e-6}
C1 N1 0 {200e-6/(6.2832*GBW)}

* Fast slew rate stage
G2 0 N2 N1 0 1e-3
R2 N2 0 1e3
C2 N2 0 {1e-3/SR}

* Low impedance output
E1 N3 0 N2 0 1
R3 N3 OUT 50

D1 OUT VCC DLIM
D2 VEE OUT DLIM
.MODEL DLIM D(IS=1e-14 BV=2)
.ENDS OPAMP_TL072

*=====================================================================
* End of Op-Amp Library
*=====================================================================
