*==============================================================================
* RSpice built-in library - Integrated circuits, timers and voltage regulators
*==============================================================================
*
* Generated by tools/models/build_builtin.py - do not edit by hand.
* Every card below is copied verbatim from a pack under models/spice/;
* edit models/spice/builtin/selection.toml and regenerate instead.
*
* Parts: 7805, 7812, LM7905, LM7912, UA555
*

*------------------------------------------------------------------------------
* 7805
* Source: community/ngspice-basic-models/upstream/Power-Regulators/7805_basic.lib
*------------------------------------------------------------------------------
* 7805 simple behavioral
* Source: https://github.com/kafana/ltspice-misc/blob/master/models/regulators.lib
.subckt 7805 In Aj Out
F1 In 0 Vc 1
Rcon In 0 1e6
B1 4 Aj V= Table (V(In,Aj), 0,0, 1,0, 7,5, 35,5, 36,0)
Vc 4 Out 0
F2 In Aj Vc 4m
.ends

*------------------------------------------------------------------------------
* 7812
* Source: community/ngspice-basic-models/upstream/Power-Regulators/7812_basic.lib
*------------------------------------------------------------------------------
* 7812 simple behavioral
* Source: https://github.com/kafana/ltspice-misc/blob/master/models/regulators.lib
.subckt 7812 In Aj Out
F1 In 0 Vc 1
Rcon In 0 1e6
B1 4 Aj V= Table (V(In,Aj), 0,0, 1,0, 14,12, 35,12, 36,0)
Vc 4 Out 0
F2 In Aj Vc 4m
.ends

*------------------------------------------------------------------------------
* LM7905
* Source: community/ngspice-basic-models/upstream/Power-Regulators/7905.lib
*------------------------------------------------------------------------------
* 7905
* Source: https://github.com/kafana/ltspice-misc/blob/master/models/regulators.lib
.SUBCKT LM7905  1    2    3            
*
DD4           4   5   D_6V3_0 
DD2           6   2   D_3V9_0 
DD1           7   2   D_4V7_0 
DD3           8   3   D_6V3_0 
C2            9  10  5P
C1            2   9  15P
QTU15         10   9   3   Q_PNP_0 1.000
R17          11  12  4.2K
QTU22          3  10  13   Q_NPN_0 3.000
R18           8   5  15.65K
R20          13  14  1K
R19           4  14  75
QTU31         12  11   4   Q_NPN_1 1.000
R16          15   1  160
R24          16   1  1.8K
C3           17   1  10P
QTU30         18  12  15   Q_NPN_1 1.000
QTU29         10  16   1   Q_NPN_1 1.000
R15          19   1  400
QTU28         10  20  19   Q_NPN_1 1.000
R14          21   1  200
QTU27         17  20  21   Q_NPN_1 1.000
R11          22  23  1K
R10          24  25  1K
QTU19         18  27  26   Q_NPN_1 1.000
R9            2  18  7.1K
QTU8          16  18   2   Q_PNP_0 1.000
QTU7          28  18   2   Q_PNP_0 1.000
QTU6          18  18   2   Q_PNP_0 1.000
QTU5          11  29   2   Q_PNP_0 1.000
QTU4          20  29   2   Q_PNP_0 1.000
QTU3           1  29   2   Q_PNP_0 1.000
QTU2           1  29   2   Q_PNP_0 1.000
R13          28   1  400
R12          30   1  400
QTU18         29  29  31   Q_NPN_1 1.000
QTU1          29  29   2   Q_PNP_0 1.000
R6           31  32  6.5K
R7           32  27  5.6K
R8           27  26  950
QTU10         33   6  26   Q_PNP_0 1.000
QTU17         34  35  33   Q_PNP_0 1.000
R5           36   1  2K
QTU24         34  34  36   Q_NPN_1 1.000
R1           37   6  6.3K
R2           37  38  670
R3           38  35  550
QTU9          38  35   6   Q_PNP_0 1.000
R4           39   1  2K
QTU23         35  34  39   Q_NPN_1 1.000
QTU16          1   7  35   Q_PNP_0 1.000
JT1           7   1   1  J_2N3458_N 
QTU14          3  17  23   Q_PNP_0 1.000
QTU13         17  17  23   Q_PNP_0 1.000
QTU12         17  17  25   Q_PNP_0 1.000
QTU11          9  17  25   Q_PNP_0 1.000
QTU32          3  13  14   Q_NPN_2 10.000
QTU26          9  20  28   Q_NPN_1 1.000
QTU25         20  20  30   Q_NPN_1 1.000
QTU21          2  40  22   Q_NPN_1 1.000
QTU20          2  37  24   Q_NPN_1 1.000
R21           2  40  4.29K
R22          40   3  500
R23          14   1  500M
*
.MODEL J_2N3458_N NJF( VTO=-3.05 BETA=699.53U LAMBDA=6M RD=1 RS=1 
+      CGD=2.81P CGS=2.91P M=227.1M PB=500M IS=114.41F 
+      VTOTC=-2.5M BETATCE=-500M KF=0 AF=1 )
.MODEL D_6V3_0  D( IS=10F N=1.24 BV=6.3 IBV=1M CJ0 = 1P TT = 10p )
.MODEL D_3V9_0  D( IS=10F N=1.24 BV=3.9 IBV=1M CJ0 = 1P TT = 10p )
.MODEL D_4V7_0  D( IS=10F N=1.24 BV=4.7 IBV=1M CJ0 = 1P TT = 10p )
.MODEL Q_PNP_0  PNP( IS=10F NF=1.04 NR=1.04 BF=50 CJC=1P CJE=2P
+      TF=10P TR=1N VAF=45)
.MODEL Q_NPN_0  NPN( IS=10F NF=1.04 NR=1.04 BF=100 CJC=1P CJE=2P
+       TF=10P TR=1N VAF=90)
.MODEL Q_NPN_1  NPN( IS=10F NF=1.04 NR=1.04 BF=100 CJC=1P CJE=2P
+       TF=10P TR=1N VAF=90)
.MODEL Q_NPN_2  NPN( IS=10F NF=1.04 NR=1.04 BF=100 CJC=1P CJE=2P
+       TF=10P TR=1N VAF=90)
.ENDS LM7905
*
* This is a copy of the LM7905 from regulators.lib.
* R22 changed from 500 -> 7500
*

*------------------------------------------------------------------------------
* LM7912
* Source: community/ngspice-basic-models/upstream/Power-Regulators/7912.lib
*------------------------------------------------------------------------------
* 7912
* Source: https://github.com/kafana/ltspice-misc/blob/master/models/regulators.lib
.SUBCKT LM7912  1    2    3            
DD4           4   5   D_6V3_0 
DD2           6   2   D_3V9_0 
DD1           7   2   D_4V7_0 
DD3           8   3   D_6V3_0 
C2            9  10  5P
C1            2   9  15P
QTU15         10   9   3   Q_PNP_0 1.000
R17          11  12  4.2K
QTU22          3  10  13   Q_NPN_0 3.000
R18           8   5  15.65K
R20          13  14  1K
R19           4  14  75
QTU31         12  11   4   Q_NPN_1 1.000
R16          15   1  160
R24          16   1  1.8K
C3           17   1  10P
QTU30         18  12  15   Q_NPN_1 1.000
QTU29         10  16   1   Q_NPN_1 1.000
R15          19   1  400
QTU28         10  20  19   Q_NPN_1 1.000
R14          21   1  200
QTU27         17  20  21   Q_NPN_1 1.000
R11          22  23  1K
R10          24  25  1K
QTU19         18  27  26   Q_NPN_1 1.000
R9            2  18  7.1K
QTU8          16  18   2   Q_PNP_0 1.000
QTU7          28  18   2   Q_PNP_0 1.000
QTU6          18  18   2   Q_PNP_0 1.000
QTU5          11  29   2   Q_PNP_0 1.000
QTU4          20  29   2   Q_PNP_0 1.000
QTU3           1  29   2   Q_PNP_0 1.000
QTU2           1  29   2   Q_PNP_0 1.000
R13          28   1  400
R12          30   1  400
QTU18         29  29  31   Q_NPN_1 1.000
QTU1          29  29   2   Q_PNP_0 1.000
R6           31  32  6.5K
R7           32  27  5.6K
R8           27  26  950
QTU10         33   6  26   Q_PNP_0 1.000
QTU17         34  35  33   Q_PNP_0 1.000
R5           36   1  2K
QTU24         34  34  36   Q_NPN_1 1.000
R1           37   6  6.3K
R2           37  38  670
R3           38  35  550
QTU9          38  35   6   Q_PNP_0 1.000
R4           39   1  2K
QTU23         35  34  39   Q_NPN_1 1.000
QTU16          1   7  35   Q_PNP_0 1.000
JT1           7   1   1  J_2N3458_N 
QTU14          3  17  23   Q_PNP_0 1.000
QTU13         17  17  23   Q_PNP_0 1.000
QTU12         17  17  25   Q_PNP_0 1.000
QTU11          9  17  25   Q_PNP_0 1.000
QTU32          3  13  14   Q_NPN_2 10.000
QTU26          9  20  28   Q_NPN_1 1.000
QTU25         20  20  30   Q_NPN_1 1.000
QTU21          2  40  22   Q_NPN_1 1.000
QTU20          2  37  24   Q_NPN_1 1.000
R21           2  40  4.29K
R22          40   3  7500
R23          14   1  500M

.MODEL J_2N3458_N NJF( VTO=-3.05 BETA=699.53U LAMBDA=6M RD=1 RS=1 
+      CGD=2.81P CGS=2.91P M=227.1M PB=500M IS=114.41F 
+      VTOTC=-2.5M BETATCE=-500M KF=0 AF=1 )
.MODEL D_6V3_0  D( IS=10F N=1.24 BV=6.3 IBV=1M CJ0 = 1P TT = 10p )
.MODEL D_3V9_0  D( IS=10F N=1.24 BV=3.9 IBV=1M CJ0 = 1P TT = 10p )
.MODEL D_4V7_0  D( IS=10F N=1.24 BV=4.7 IBV=1M CJ0 = 1P TT = 10p )
.MODEL Q_PNP_0  PNP( IS=10F NF=1.04 NR=1.04 BF=50 CJC=1P CJE=2P
+      TF=10P TR=1N VAF=45)
.MODEL Q_NPN_0  NPN( IS=10F NF=1.04 NR=1.04 BF=100 CJC=1P CJE=2P
+       TF=10P TR=1N VAF=90)
.MODEL Q_NPN_1  NPN( IS=10F NF=1.04 NR=1.04 BF=100 CJC=1P CJE=2P
+       TF=10P TR=1N VAF=90)
.MODEL Q_NPN_2  NPN( IS=10F NF=1.04 NR=1.04 BF=100 CJC=1P CJE=2P
+       TF=10P TR=1N VAF=90)
.ENDS LM7912

*------------------------------------------------------------------------------
* UA555
* 555 timer
* Source: community/ngspice-basic-models/upstream/others/UA555.mod
*------------------------------------------------------------------------------
* TIMER 555
* https://www.electro-tech-online.com/threads/spice-and-555-timer.5806/
 .SUBCKT UA555  32 30 19 23 33 1  21
    *           TR O  R  F  TH D  V
    *
    * Taken from the Fairchild data book (1982) page 9-3
    *SYM=UA555
    *DWG=C:\SPICE\555\UA555.DWG
    Q4 25 2 3 QP
    Q5 0 6 3 QP
    Q6 6 6 8 QP
    R1 9 21 4.7K
    R2 3 21 830
    R3 8 21 4.7K
    Q7 2 33 5 QN
    Q8 2 5 17 QN
    Q9 6 4 17 QN
    Q10 6 23 4 QN
    Q11 12 20 10 QP
    R4 10 21 1K
    Q12 22 11 12 QP
    Q13 14 13 12 QP
    Q14 0 32 11 QP
    Q15 14 18 13 QP
    R5 14 0 100K
    R6 22 0 100K
    R7 17 0 10K
    Q16 1 15 0 QN
    Q17 15 19 31 QP
    R8 18 23 5K
    R9 18 0 5K
    R10 21 23 5K
    Q18 27 20 21 QP
    Q19 20 20 21 QP
    R11 20 31 5K
    D1 31 24 DA
    Q20 24 25 0 QN
    Q21 25 22 0 QN
    Q22 27 24 0 QN
    R12 25 27 4.7K
    R13 21 29 6.8K
    Q23 21 29 28 QN
    Q24 29 27 16 QN
    Q25 30 26 0 QN
    Q26 21 28 30 QN
    D2 30 29 DA
    R14 16 15 100
    R15 16 26 220
    R16 16 0 4.7K
    R17 28 30 3.9K
    Q3 2 2 9 QP
    .MODEL DA D (RS=40 IS=1.0E-14 CJO=1PF)
    .MODEL QP PNP (BF=20 BR=0.02 RC=4 RB=25 IS=1.0E-14 VA=50 NE=2)
    + CJE=12.4P VJE=1.1 MJE=.5 CJC=4.02P VJC=.3 MJC=.3 TF=229P TR=159N)
    .MODEL QN NPN (IS=5.07F NF=1 BF=100 VAF=161 IKF=30M ISE=3.9P NE=2
    + BR=4 NR=1 VAR=16 IKR=45M RE=1.03 RB=4.12 RC=.412 XTB=1.5
    + CJE=12.4P VJE=1.1 MJE=.5 CJC=4.02P VJC=.3 MJC=.3 TF=229P TR=959P)
 .ENDS
